US05491172
Glyoxylic acid (1.99 g, 27 mmol) and 1,3,5-triisopropylbenzene (5.0 g, 24.5mmol) were mixed in 30 mL glacial acetic acid and 2 mL concentrated sulfuric acid. The resulting solution was heated to reflux for 5 hours andthen stirred at room temperature for 16 hours. The reaction mixture was poured into 100 g ice and the resulting mixture was extracted with diethylether. The organic layer was dried over MgSO4, filtered, and concentrated to give an oily solid which was recrystallized from hexanes to give 3.29 g of acetyloxy[2,4,6-tris(1-methylethyl)phenyl]acetic acid, mp 166°-169° C.

reactant | Glyoxylic acid | 27 mmol, 1.99 g | C(C=O)(=O)O | C2H2O3
reactant | 1,3,5-triisopropylbenzene | 24.5mmol, 5.0 g | C(C)(C)C1=CC(=CC(=C1)C(C)C)C(C)C | C15H24
reactant | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
product | acetyloxy[2,4,6-tris(1-methylethyl)phenyl]acetic acid | 3.29 g | C(C)(=O)OC(C(=O)O)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C | C19H28O4
